US04362666
The starting material is prepared as follows: The mixture of 3,078 g of o-nitrobenzylamine and 2,670 g of 2,5-dimethoxytetrahydrofuran is added rapidly to 10,000 ml of glacial acetic acid at 86° while stirring under nitrogen. The mixture is stirred at 95° for 1.25 hours, cooled to 25° and combined with 30,000 ml of water. It is extracted with ethyl acetate, the extract is washed with 10% aqueous sodium hydroxide and 10% aqueous sodium chloride, filtered and evaporated to yield the 1-(o-nitrobenzyl)-pyrrole.

reactant | o-nitrobenzylamine | 3,078 g | [N+](=O)([O-])C1=C(CN)C=CC=C1 | C7H8N2O2
reactant | 2,5-dimethoxytetrahydrofuran | 2,670 g | COC1OC(CC1)OC | C6H12O3
reactant | acetic acid | 10,000 ml | C(C)(=O)O | C2H4O2
solvent | water | 30,000 ml | O | H2O
product | 1-(o-nitrobenzyl)-pyrrole | [N+](=O)([O-])C1=C(CN2C=CC=C2)C=CC=C1 | C11H10N2O2
